************************************************************************
* auCdl Netlist:
* 
* Library Name:  ic
* Top Cell Name: bandgap_reference_19
* View Name:     schematic
* Netlisted on:  May 17 15:19:10 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ic
* Cell Name:    OTA_for_LV_19
* View Name:    schematic
************************************************************************

.SUBCKT OTA_for_LV_19 GND IBIAS VDD VN VO VP
*.PININFO VN:I VP:I VO:O GND:B IBIAS:B VDD:B
MM8q VO net29 VO VO p33 W=85u L=1.75u m=1
MM4 net23 VP net025 net025 p33 W=12u L=3u m=4
MM3 net17 VN net025 net025 p33 W=12u L=3u m=4
MM2 VO IBIAS VDD VDD p33 W=6u L=600n m=20
MM1 IBIAS IBIAS VDD VDD p33 W=6u L=600n m=1
MM0 net025 IBIAS VDD VDD p33 W=6u L=600n m=2
MM7 VO net23 GND GND n33 W=8u L=1u m=8
MM6 net23 net17 GND GND n33 W=6u L=4u m=2
MM5 net17 net17 GND GND n33 W=6u L=4u m=2
RR0 net29 net23 10.5254K $[rhrpo] $W=1u $L=10u M=1
.ENDS

************************************************************************
* Library Name: ic
* Cell Name:    idc_19
* View Name:    schematic
************************************************************************

.SUBCKT idc_19 GND IBIAS VDD
*.PININFO GND:B IBIAS:B VDD:B
MM7 VDD net7 VDD VDD p33 W=5u L=10u m=2
MM6 net7 net7 VDD VDD p33 W=5u L=10u m=2
MM5 net52 net7 VDD VDD p33 W=5u L=10u m=2
MM4 net35 GND net13 VDD p33 W=220n L=10u m=1
MM3 net13 GND net17 VDD p33 W=220n L=10u m=1
MM2 net17 GND net21 VDD p33 W=220n L=10u m=1
MM1 net21 GND net31 VDD p33 W=220n L=10u m=1
MM0 net31 GND VDD VDD p33 W=220n L=10u m=1
MM12 net7 net35 GND GND n33 W=5u L=1u m=1
MM11 net35 net52 GND GND n33 W=5u L=1u m=1
MM10 IBIAS net52 GND GND n33 W=5u L=5u m=1
MM9 net7 net52 net45 GND n33 W=5u L=5u m=4
MM8 net52 net52 GND GND n33 W=5u L=5u m=1
RR0 net45 GND 69.7041K $[rhrpo] $W=1u $L=66u M=1
.ENDS

************************************************************************
* Library Name: ic
* Cell Name:    bandgap_reference_19
* View Name:    schematic
************************************************************************

.SUBCKT bandgap_reference_19 GND VDD Vout
*.PININFO Vout:O GND:B VDD:B
XI0 GND IBIAS VDD net8 Vout net5 / OTA_for_LV_19
XI1 GND IBIAS VDD / idc_19
QQ2 GND GND net7 pnp33a4 M=12 AREA=4e-12
QQ1 GND GND net5 pnp33a4 M=1 AREA=4e-12
RR4 net6 Vout 12K $[rhrpo] $W=1u $L=11.4u M=1
RR1 net6 net5 6.82584K $[rhrpo] $W=2u $L=13u M=1
RR3 net8 net7 81.3285K $[rhrpo] $W=1u $L=77u M=1
RR2 net6 net8 74.9879K $[rhrpo] $W=1u $L=71u M=1
.ENDS

